US07034056B2
To a stirred solution of (3,5-dichloro-phenyl)-{2-[2-(4-iodophenyl)-pent-4-enylamino]-ethyl}-carbamic acid tert-butyl ester (0.493 g, 0.85 mmol) in CH2Cl2 (20 mL) at 0° C. was added TFA (5 mL). The mixture was stirred and warmed to room temperature for 4 h. The solvent was removed by rotary evaporation and the residue was dissolved in EtOAc and washed twice with NaHCO3 (10% in H2O). The organic extracts were dried over sodium sulfate, filtered and concentrated by rotary evaporation to give N-(3,5-dichloro-phenyl)-N′-[2-(4-iodo-phenyl)-pent-4-enyl]-ethane-1,2-diamine (0.386 g, 0.81 mmol, 95%) as a brown oil. 1H NMR (300 MHz, CDCl3): δ 7.73 (d, 2H), 7.03 (d, 2H), 6.56 (t, 1H), 6.50 (d, 2H), 5.75 (m, 1H), 5.08 (m, 2H), 4.42 (br s, NH), 3.15 (m, 2H), 3.40 (m, 5H), 2.44 (m, 2H).

reactant | (3,5-dichloro-phenyl)-{2-[2-(4-iodophenyl)-pent-4-enylamino]-ethyl}-carbamic acid tert-butyl ester | 0.85 mmol, 0.493 g | C(C)(C)(C)OC(N(CCNCC(CC=C)C1=CC=C(C=C1)I)C1=CC(=CC(=C1)Cl)Cl)=O | C24H29Cl2IN2O2
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(3,5-dichloro-phenyl)-N′-[2-(4-iodo-phenyl)-pent-4-enyl]-ethane-1,2-diamine | 0.81 mmol, 0.386 g, 95% | ClC=1C=C(C=C(C1)Cl)NCCNCC(CC=C)C1=CC=C(C=C1)I | C19H21Cl2IN2
